US08604055B2
Step (i): Synthesis of N-(2,3-dimethyl-3H-imidazol-4-yl)-acetamide
To a mixture of 5-(bis-cyclopropylmethyl-amino)-2,3-dimethyl-3H-imidazo[4,5-b]pyridine-6-carbaldehyde (0.220 g, 0.73 mmol.) and 3,5-bis-trifluoromethyl-benzylamine (215 mg, 0.87 mmol) in methanol (8 mL) was added acetic acid (0.042 mL, 0.073 mol) at 0° C. and the resulting reaction mixture was stirred for 15 min at the same temperature. NaCNBH3 (0.069 g, 0.011 mmol.) was added and the mixture was stirred at room temperature for 45 min. Methanol was removed under reduced pressure and the crude was extracted with ethyl acetate (250 mL) and washed with water (250 mL×2). The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure to yield 0.220 gof colorless gummy compound.

reactant | 5-(bis-cyclopropylmethyl-amino)-2,3-dimethyl-3H-imidazo[4,5-b]pyridine-6-carbaldehyde | 0.73 mmol, 0.220 g | C1(CC1)CN(C1=C(C=C2C(=N1)N(C(=N2)C)C)C=O)CC2CC2 | C17H22N4O
reactant | 3,5-bis-trifluoromethyl-benzylamine | 0.87 mmol, 215 mg | FC(C=1C=C(CN)C=C(C1)C(F)(F)F)(F)F | C9H7F6N
reactant | acetic acid | 0.073 mol, 0.042 mL | C(C)(=O)O | C2H4O2
reactant | NaCNBH3 | 0.011 mmol, 0.069 g | [BH3-]C#N.[Na+]
solvent | methanol | 8 mL | CO | CH4O
product | N-(2,3-dimethyl-3H-imidazol-4-yl)-acetamide | CC1=NC=C(N1C)NC(C)=O | C7H11N3O
